US07741315B2
Step 4: (6R)-11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-6-(hydroxymethyl)-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
A solution of (6R)-6-[(benzyloxy)methyl]-11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione (167 mg, 0.29 mmol) in dichloromethane (2.9 mL) was cooled to 0° C. and treated with boron tribromide (295 mg, 1.18 mmol). The cooling bath was removed and the mixture stirred at room temperature for 30 minutes. The reaction was quenched by the addition of MeOH followed by 1 N aqueous HCl. The mixture was diluted with dichloromethane and washed with water. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum. The residue was subjected to reverse phase column chromatography on C-18 stationary phase eluted with a 95-5% water-acetonitrile gradient. Collection and concentration of appropriate fractions afforded the title compound.

reactant | (6R)-6-[(benzyloxy)methyl]-11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | 0.29 mmol, 167 mg | C(C1=CC=CC=C1)OC[C@H]1CCCN(C(C=2N1C(C(=C1C(N(CCC21)CC2=CC(=C(C=C2)F)Cl)=O)OC)=O)=O)C | C30H31ClFN3O5
reactant | boron tribromide | 1.18 mmol, 295 mg | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2.9 mL | ClCCl | CH2Cl2
product | (6R)-11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-6-(hydroxymethyl)-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCC[C@@H]4CO)C)=O)=O)O)=O)C=CC1F | C22H23ClFN3O5
